US07482448B2
Morpholine-4-carboxylic acid [(S)-1-(1-cyano-cyclopropylcarbamoyl)-3,3-difluoro-hexyl]-amide
Prepared by reacting (S)-4,4-Difluoro-2-[(morpholine-4-carbonyl)-amino]-heptanoic acid and 1-Amino-cyclopropanecarbonitrile hydrochloride, using TOTU as the coupling agent and diisopropyl ethylamine as the base.

reactant | (S)-4,4-Difluoro-2-[(morpholine-4-carbonyl)-amino]-heptanoic acid | FC(C[C@@H](C(=O)O)NC(=O)N1CCOCC1)(CCC)F | C12H20F2N2O4
reactant | 1-Amino-cyclopropanecarbonitrile hydrochloride | Cl.NC1(CC1)C#N
reactant | TOTU | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | diisopropyl ethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | Morpholine-4-carboxylic acid [(S)-1-(1-cyano-cyclopropylcarbamoyl)-3,3-difluoro-hexyl]-amide | C(#N)C1(CC1)NC(=O)[C@H](CC(CCC)(F)F)NC(=O)N1CCOCC1 | C16H24F2N4O3
